US06169107A
The reaction was carried out in a manner similar to Example 186 b) except for using 0.28 g (0.70 mmol) of ethyl 4-chloro-7-[4-(dimethylaminomethyl)benzyloxy]-1-methyl-2-indolecarboxylate, 1.52 g (16.0 mmol) of guanidine hydrochloride, 0.86 g (16.0 mmol) of sodium methoxide and 40 ml of methanol. Thus, 0.10 g (29.3%) of 4-chloro-7-[4-(dimethylaminomethyl)benzyloxy]-1-methyl-2-indoloylguanidine dihydrochloride was obtained.

reactant | ethyl 4-chloro-7-[4-(dimethylaminomethyl)benzyloxy]-1-methyl-2-indolecarboxylate | 0.70 mmol, 0.28 g | ClC1=C2C=C(N(C2=C(C=C1)OCC1=CC=C(C=C1)CN(C)C)C)C(=O)OCC | C22H25ClN2O3
reactant | guanidine hydrochloride | 16.0 mmol, 1.52 g | Cl.NC(=N)N
reactant | sodium methoxide | 16.0 mmol, 0.86 g | C[O-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 4-chloro-7-[4-(dimethylaminomethyl)benzyloxy]-1-methyl-2-indoloylguanidine dihydrochloride | 0.10 g, 29.3% | Cl.Cl.ClC1=C2C=C(NC2=C(C=C1)OCC1=CC=C(C=C1)CN(C)C)C(=O)N=C(NC)N | InChI=1S/C21H24ClN5O2.2ClH/c1-24-21(23)26-20(28)17-10-15-16(22)8-9-18(19(15)25-17)29-12-14-6-4-13(5-7-14)11-27(2)3;;/h4-10,25H,11-12H2,1-3H3,(H3,23,24,26,28);2*1H
